US04684727
Preparation of 1-(1,2-dihydro-4-hydroxy-1-phenyl-2-oxo-1,8-naphthyridin-3-yl)-pyrrolidinium hydroxide, inner salt
A solution of 3-bromo-4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)-one (2 g) in a mixture of pyrrolidine (10 mL) and DMF (5 mL) was stirred and heated at 100° C. for 2 days. The resulting mixture was then cooled, diluted with CH2Cl2 (100 mL) and filtered. The solid was triturated with hot CHCl3, filtered, and dried to yield the desired product, m.p. 282°-284° C.

reactant | 3-bromo-4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)-one | 2 g | BrC=1C(N(C2=NC=CC=C2C1O)C1=CC=CC=C1)=O | C14H9BrN2O2
reactant | pyrrolidine | 10 mL | N1CCCC1 | C4H9N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-(1,2-dihydro-4-hydroxy-1-phenyl-2-oxo-1,8-naphthyridin-3-yl)-pyrrolidinium hydroxide | [OH-].OC1=C(C(N(C2=NC=CC=C12)C1=CC=CC=C1)=O)[NH+]1CCCC1 | InChI=1S/C18H17N3O2.H2O/c22-16-14-9-6-10-19-17(14)21(13-7-2-1-3-8-13)18(23)15(16)20-11-4-5-12-20;/h1-3,6-10,22H,4-5,11-12H2;1H2
